US06858638B2
N-(5-Amino-1H-indazol-3-yl)benzamide can be obtained as described in Example 4 from 0.6 g of N-(5-nitro-1H-indazol-3-yl)benzamide, 21 ml of ethanol, 4.2 g of ferrous sulfate, 6.6 ml of water and 5.1 ml of 32% aqueous ammonia. 0.4 g of N-(5-amino-1H-indazol-3-yl)benzamide is thus obtained in the form of a yellow powder melting at 116° C.

reactant | N-(5-nitro-1H-indazol-3-yl)benzamide | 0.6 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C14H10N4O3
reactant | ethanol | 21 ml | C(C)O | C2H6O
reactant | ammonia | 5.1 ml | N | H3N
solvent | water | 6.6 ml | O | H2O
product | N-(5-amino-1H-indazol-3-yl)benzamide | 0.4 g | NC=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C14H12N4O
